US07081470B2
(3Z)-1-(4-BROMOPHENYL)-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL-2-ONE
A solution of (3Z)-3-{[3-(trifluoromethyl)phenyl]imino}-1,3-dihydro-2H-indol-2-one (100 mg, 0.344 mmol), copper (II) acetate (93 mg, 0.516 mmol), triethylamine (105 mg, 1.03 mmol), and 4-bromobenzene boronic acid (104 mg, 0.516 mmol) in 5 mL of CH2Cl2 was stirred at room temperature for 12 h. The crude mixture was concentrated in vacuo and purified by preparative TLC using EtOAc:hexane (3:7, 1% triethylamine), giving the desired product (65 mg, 42%).

reactant | (3Z)-3-{[3-(trifluoromethyl)phenyl]imino}-1,3-dihydro-2H-indol-2-one | 0.344 mmol, 100 mg | FC(C=1C=C(C=CC1)\N=C\1/C(NC2=CC=CC=C12)=O)(F)F | C15H9F3N2O
reactant | triethylamine | 1.03 mmol, 105 mg | C(C)N(CC)CC | C6H15N
reactant | 4-bromobenzene boronic acid | 0.516 mmol, 104 mg | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 0.516 mmol, 93 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (3Z)-1-(4-BROMOPHENYL)-3-{[3-(TRIFLUOROMETHYL)PHENYL]IMINO}-1,3-DIHYDRO-2H-INDOL-2-ONE | 65 mg, 42% | BrC1=CC=C(C=C1)N1C(\C(\C2=CC=CC=C12)=N/C1=CC(=CC=C1)C(F)(F)F)=O | C21H12BrF3N2O
